US07030118B2
G) (±)-3-Benzyl-5-chloro-2-(chloro-cyclopropyl-methyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one
Thionyl chloride (2 M in CH2Cl2, 1.52 ml, 3.04 mmol) was added to solution of 3-benzyl-5-chloro-2-(cyclopropyl-hydroxy-methyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one (0.5 g, 1.52 mmol) and pyridine (0.49 mL, 6.08 mmol) in CH2Cl2 (10 ml) at 0° C. The reaction mixture was stirred at 0° C. for 45 min and then quenched by pouring on to ice. The solution was treated with 1 N HCl (100 mL) and extracted with CHCl3 (3×100 mL). The combined organic extracts were washed with saturated NaHCO3 (100 mL), dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluting with 4/1 hexane/EtOAc to afford the title compound (0.368 g, 70%) as a solid: 1H NMR (DMF-d7) δ 7.96 (m, 1H), 7.47–7.60 (m, 5H), 6.97 (m, 1H), 5.94 (m, 1H), 5.22 (m, 1H), 4.63 (d, 1H, J=9.99 Hz), 2.09–2.12 (m, 1H), 0.98–1.05 (m, 1H), 0.86–0.97 (m, 1H), 0.68–0.71 (m, 1H), 0.23–0.27 (m, 1H); MS (ESI+) 348 (M++H), HRMS (ESI+) calculated: 348.0670 (M++H). found: 348.0686 (M++H).

reactant | Thionyl chloride | 3.04 mmol, 2 M, 1.52 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-benzyl-5-chloro-2-(cyclopropyl-hydroxy-methyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 1.52 mmol, 0.5 g | C(C1=CC=CC=C1)N1C(=NN2C(C1=O)=C(C=C2)Cl)C(O)C2CC2 | C17H16ClN3O2
reactant | pyridine | 6.08 mmol, 0.49 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (±)-3-Benzyl-5-chloro-2-(chloro-cyclopropyl-methyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 0.368 g, 70% | C(C1=CC=CC=C1)N1C(=NN2C(C1=O)=C(C=C2)Cl)C(C2CC2)Cl | C17H15Cl2N3O
